2115-01-30 08:02:00 Physician Resident Progress Note
Chief Complaint: s/p sigmoid colectomy
   24 Hour Events:
   o/n pt stable on NRB. Bipap tried without success
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2115-1-30**] 06:15 AM
   Furosemide (Lasix) - [**2115-1-30**] 06:26 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: states mild back pain, no SOB or other pain. No
   other complaints
   Flowsheet Data as of  [**2115-1-30**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37
C (98.6
   HR: 99 (99 - 114) bpm
   BP: 154/69(90) {125/44(63) - 187/73(104)} mmHg
   RR: 24 (20 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
             123 mL
   PO:
             TF:
   IVF:
   123 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,385 mL
   Urine:
   1,385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 -1,262 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 96%
   ABG: ///33/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese, draining
   serosang with dressings c/d/i
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   226 K/uL
   10.8 g/dL
   122 mg/dL
   0.9 mg/dL
   33 mEq/L
   3.7 mEq/L
   10 mg/dL
   99 mEq/L
   138 mEq/L
   33.0 %
   12.4 K/uL
         [image002.jpg]
                             [**2115-1-30**]  01:00 AM
                             [**2115-1-30**]  05:37 AM
   WBC
   14.4
   12.4
   Hct
   35.9
   33.0
   Plt
   264
   226
   Cr
   0.9
   0.9
   TropT
   <0.01
   Glucose
   151
   122
   Other labs: CK / CKMB / Troponin-T:72/2/<0.01, Ca++:8.2 mg/dL, Mg++:2.1
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
 HYPOXEMIA
 .H/O DIABETES MELLITUS (DM), TYPE II
 .H/O ALCOHOL ABUSE
 .H/O HYPERTENSION, BENIGN
   Assessment: This is a 63 year-old male with a history of DM2, HTN, HLP,
   ETOH abuse, obesity, OSA on CPAP who is transferred to the ICU for
   hypoxia s/p laparoscopic sigmoidectomy and coloproctostomy
   Plan:
   # Hypoxia: most likely etiology is volume overload in the setting of
   IVFs intra and postoperatively.  ECHo recently done with normal EF.
   ECG without concerning findings, but likely given his h/o of HTN,
   likely has a component of diastolic dysfunction not well seen on
   suboptimal ECHO.  He has been persistently hypertensive and
   tachycardic.  No fevers or leukocytosis or cough to suggest PNA.  Not
   an aspiration risk at this time. other possibility includes PE given
   malignancy and recent surgery though patient has been on hep sc for
   ppx.  He does also have sinus tachycardia. also, could be post op
   atelectasis
   - NRB for now; repeat ABG
   - can try CPAP, though likely would benefit from bipap given the
   hypercarbia
   - lasix 80 mg IV BID- goal I/O -1 to -2L in 24H
   - control HR/BP as below
   - repeat CXR in AM
   - CTA for r/o PE once stable and can lie flat; clinical suspicion for
   PE is low, would not start on empiric heparin unless BP drops or
   clinically unstable otherwise
   - sputum culture if possible
   - incentive spirometry
   - NEBS prn
   # Hypercarbia: likely due to OSA, hypoventilation/obesity.  Unclear
   what baseline is, but given elevated bicarb, likely is a chronic
   retainer
   - attempt BIPAP as tolerated
   - diuresis as above
   - incentive spirometry
   # Hypertension/tachycardia: unable to take POs at this time.
   Peristently hypertensive and tachycardic.  Likely from not taking home
   meds; pain, and possibly component of ETOH withdrawal
   - increased hydral to 20 IV q6H and metoprolol to 10 IV q6h.  titrate
   up as tolerated
   - if difficult to control, can consider labetalol for rate/BP control;
   can consider nitro gtt or nicardipine gtt
   - cycling cardiac enzymes per surgery
   - repeat ECG in AM
   # h/o ETOH abuse; on lorazepam CIWA, still shaky on exam
   - increase lorazepam to 1 mg Q1H CIWA
   # Colonic adenocarcinoma s/p lap sigmoidectomy: on PCA for pain control
   - f/u surgery recs
   - wound care per surgery
   - d/w surgery re when he can start POs; consider peeling off on PCA
   once able to take POs
   # DM2: NPO for now
   - regular ISS
   # Hyperlipidemia: hold home meds for now
   # FEN: NPO for now
   - replete lytes; [**Hospital1 7**] given diuresis
   # Access: PIVs
   # PPx: hep sc
   # Code: FULL
   # Dispo: ICU for now
   # Comm: patient
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2115-1-30**] 12:50 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2115-01-31 07:36:00 Physician Resident Progress Note
Chief Complaint: hypoxia
   24 Hour Events:
   -Initially on labetalol and hydralazine for BP and HR control but
   changed to metoprolol and hydralazine per surgery
   -Quiet day otherwise
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Labetalol - [**2115-1-30**] 05:37 PM
   Heparin Sodium (Prophylaxis) - [**2115-1-30**] 10:00 PM
   Hydralazine - [**2115-1-30**] 11:34 PM
   Metoprolol - [**2115-1-31**] 02:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies pain, SOB, CP, HA, nausea, fevers. Wants to
   get out of bed
   Flowsheet Data as of  [**2115-1-31**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 104 (92 - 114) bpm
   BP: 125/82(89) {125/44(61) - 186/82(104)} mmHg
   RR: 24 (9 - 26) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  1,263 mL
                                                                    195 mL
   PO:
                                                                    480 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    783 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  4,727 mL
                                                                    430 mL
   Urine:
                                                                  4,697 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
                                                                     30 mL
                                                                     10 mL
   Balance:
                                                                 -3,464 mL
                                                                   -235 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: ///34/
   Physical Examination
   General Appearance: Overweight / Obese, Diaphoretic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases R>L)
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   302 K/uL
   12.1 g/dL
   169 mg/dL
   0.8 mg/dL
   34 mEq/L
   4.0 mEq/L
   9 mg/dL
   96 mEq/L
   137 mEq/L
   37.1 %
   17.5 K/uL
        [image002.jpg]
                             [**2115-1-30**]  01:00 AM
                             [**2115-1-30**]  05:37 AM
                             [**2115-1-30**]  06:14 PM
                             [**2115-1-31**]  04:12 AM
   WBC
   14.4
   12.4
   17.5
   Hct
   35.9
   33.0
   37.1
   Plt
   [**Telephone/Fax (3) 5715**]
   Cr
   0.9
   0.9
   0.7
   0.8
   TropT
   <0.01
   <0.01
   Glucose
   151
   122
   165
   169
   Other labs: PT / PTT / INR:13.6/22.7/1.2, CK / CKMB /
   Troponin-T:72/2/<0.01, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
 HYPOXEMIA
 .H/O DIABETES MELLITUS (DM), TYPE II
 .H/O ALCOHOL ABUSE
 .H/O HYPERTENSION, BENIGN
   Assessment: This is a 63 year-old male with a history of DM2, HTN, HLP,
   ETOH abuse, obesity, OSA on CPAP who is transferred to the ICU for
   hypoxia s/p laparoscopic sigmoidectomy and coloproctostomy
   Plan:
   # Hypoxia: most likely etiology is volume overload in the setting of
   IVFs intra and postoperatively.  ECHo recently done with normal EF.
   ECG without concerning findings, but likely given his h/o of HTN, has a
   component of diastolic dysfunction not well seen on suboptimal ECHO.
   He has been persistently hypertensive and tachycardic.  No fevers or
   leukocytosis or cough to suggest PNA.  Not an aspiration risk at this
   time. other possibility includes PE given malignancy and recent surgery
   though patient has been on hep sc for ppx.  He does also have sinus
   tachycardia. also, could be post op atelectasis. Most likely seems to
   be pulmonary edema.
   -maximize control of BP and HR with labetalol IV. Will d/c metoprolol
   IV
   -f/u final read CTA
   - NRB for now
   - can try CPAPfor hypoxia, though could benefit from bipap given the
   hypercarbia
   - lasix 80 mg IV BID- goal I/O -1 to -2L in 24H. RPT pm lytes
   - repeat CXR in AM
   - sputum culture if possible
   - incentive spirometry
   - NEBS prn
    # Hypercarbia: likely due to OSA, hypoventilation/obesity.  Unclear
   what baseline is, but given elevated bicarb, likely is a chronic
   retainer
   - hold off on BIPAP for now
   - diuresis as above
   - incentive spirometry
   # Hypertension/tachycardia: unable to take POs at this time.
   Peristently hypertensive and tachycardic.  Likely from not taking home
   meds; pain, and possibly component of ETOH withdrawal
   - cont hydral 20 IV q6H. D/C metoprolol and start labetalol as above.
    # h/o ETOH abuse; on lorazepam CIWA, still shaky on exam but has not
   needed benzos for CIWA >10 while in the unit.
   - increase lorazepam to 1 mg Q1H CIWA
    # Colonic adenocarcinoma s/p lap sigmoidectomy: on PCA for pain
   control without a basal rate
   - f/u surgery recs
   - wound care per surgery
   - d/w surgery re when he can start POs; consider peeling off on PCA
   once able to take POs
    # DM2: NPO for now
   - regular ISS
    # Hyperlipidemia: hold home meds for now
   # FEN: NPO for now
   - replete lytes; [**Hospital1 7**] given diuresis
   # Access: PIVs
   # PPx: hep sc
   # Code: FULL
   # Dispo: ICU for now
   # Comm: son and dtr- numbers on white board in room
   ICU Care
   Nutrition: clear liquids for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2115-1-30**] 12:50 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2115-02-01 07:48:00 Physician Resident Progress Note
Chief Complaint: hypoxic resp distress
   24 Hour Events:
 ARTERIAL LINE - START [**2115-1-31**] 07:09 PM
   -Back on orals for metoprolol and captopril but on short acting to
   up-titrate
   -hypercapnic in the afternoon with increased HCO3, improved after trial
   of CPAP
   -Surgery d/c'd furosemide because concerned his contraction alkalosis
   was driving respiratory acidosis
   -Got acetazolamide 500 mg IV *1
   -Got a-line to follow
   -titrated up beta blocker
   -ABG at 6:00 am on [**2115-2-1**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2115-1-31**] 10:05 AM
   Hydralazine - [**2115-1-31**] 01:54 PM
   Furosemide (Lasix) - [**2115-1-31**] 03:45 PM
   Heparin Sodium (Prophylaxis) - [**2115-1-31**] 04:30 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies pain, SOB, nausea. States feeling about the
   same as yesterday
   Flowsheet Data as of  [**2115-2-1**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.7
C (96.2
   HR: 117 (94 - 117) bpm
   BP: 192/78(119) {144/58(86) - 200/94(216)} mmHg
   RR: 23 (14 - 23) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
                  Total In:
                                                                    791 mL
                  PO:
                                                                    580 mL
                  TF:
   IVF:
                                                                    211 mL
   Blood products:
   Total out:
                                                                  1,865 mL
                                                                    700 mL
   Urine:
                                                                  1,855 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
                                                                     10 mL
   Balance:
                                                                 -1,075 mL
                                                                   -700 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 90%
   ABG: 7.40/56/86.[**Numeric Identifier 143**]/32/7
   PaO2 / FiO2: 174
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases bilat)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, surgical
   dressings c/d/i
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   311 K/uL
   11.7 g/dL
   147 mg/dL
   0.9 mg/dL
   32 mEq/L
   3.7 mEq/L
   13 mg/dL
   100 mEq/L
   139 mEq/L
   36.7 %
   15.7 K/uL
        [image002.jpg]
                             [**2115-1-30**]  01:00 AM
                             [**2115-1-30**]  05:37 AM
                             [**2115-1-30**]  06:14 PM
                             [**2115-1-31**]  04:12 AM
                             [**2115-1-31**]  02:13 PM
                             [**2115-1-31**]  03:37 PM
                             [**2115-1-31**]  07:54 PM
                             [**2115-2-1**]  06:07 AM
                             [**2115-2-1**]  06:20 AM
   WBC
   14.4
   12.4
   17.5
   15.7
   Hct
   35.9
   33.0
   37.1
   36.7
   Plt
   [**Telephone/Fax (3) 5733**]11
   Cr
   0.9
   0.9
   0.7
   0.8
   1.0
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   43
   38
   36
   Glucose
   151
   122
   165
   169
   161
   147
   Other labs: PT / PTT / INR:13.6/22.7/1.2, CK / CKMB /
   Troponin-T:72/2/<0.01, Differential-Neuts:90.0 %, Band:1.0 %, Lymph:3.0
   %, Mono:3.0 %, Eos:2.0 %, Lactic Acid:1.5 mmol/L, Ca++:9.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
 HYPOXEMIA
 .H/O DIABETES MELLITUS (DM), TYPE II
 .H/O ALCOHOL ABUSE
 .H/O HYPERTENSION, BENIGN
   Assessment: This is a 63 year-old male with a history of DM2, HTN, HLP,
   ETOH abuse, obesity, OSA on CPAP who is transferred to the ICU for
   hypoxia s/p laparoscopic sigmoidectomy and coloproctostomy
   Plan:
   # Hypoxia: most likely etiology is volume overload in the setting of
   IVFs intra and postoperatively.  ECHO recently done with normal EF.
   ECG without concerning findings, but likely given his h/o of HTN, has a
   component of diastolic dysfunction not well seen on suboptimal ECHO.
   He has been persistently hypertensive and tachycardic.  No fevers or
   leukocytosis or cough to suggest PNA.  Not an aspiration risk at this
   time. other possibility includes PE given malignancy and recent surgery
   though patient has been on hep sc for ppx.  He does also have sinus
   tachycardia. also, could be post op atelectasis. Most likely seems to
   be pulmonary edema.
   -maximize control of BP and HR-meds changed from IV to Metoprolol 25 Q
   8 PO and Captopril 12.5 Q 8 PO today
   -f/u final read CTA
   - NRB for now- wean as tol
   -Recheck pm ABG
   - If decompensates, can try CPAP for hypoxia, though could benefit from
   bipap given the hypercarbia
   - lasix 80 mg IV BID- goal I/O -1 to -2L in 24H.
   - repeat CXR in AM
   - sputum culture if possible
   - incentive spirometry
   - NEBS ATC
    # Hypercarbia: likely due to OSA, hypoventilation/obesity.  Unclear
   what baseline is, but given elevated bicarb, likely is a chronic
   retainer
   - hold off on BIPAP for now
   - diuresis as above
   - incentive spirometry
   # Hypertension/tachycardia: Peristently hypertensive and tachycardic.
   Likely from not taking home meds; pain, and possibly component of ETOH
   withdrawal
   - Metoprolol and captopril PO as above.
    # h/o ETOH abuse- Pt on day 4 of hospitalization. No signs, sx of
   withdrawl.
   -d/c CIWA scale
    # Colonic adenocarcinoma s/p lap sigmoidectomy: on PCA for pain
   control without a basal rate requiring 1-6x/hr
   - f/u surgery recs
   - wound care per surgery
   - d/w surgery re consider peeling off on PCA since able to take POs
    # DM2: full liquid diet at this time, ADAT
   - regular ISS
    # Hyperlipidemia: hold home meds for now
   # Access: PIVs
   # PPx: hep sc
   # Code: FULL
   # Dispo: ICU for now
   # Comm: son and dtr- numbers on white board in room
   ICU Care
   Nutrition: full liquids
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2115-1-30**] 12:40 AM
   20 Gauge - [**2115-1-31**] 12:06 PM
   Arterial Line - [**2115-1-31**] 07:09 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU